US07777038B2
1-(4-Chloromethylbenzyl)-5-(1,3-dioxolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (1.0 g, 2.79 mmol), thiophenol (0.37 ml, 3.63 mmol) and 1,8-diazabicyclo[5.4.0]undecene-7 (DBU) (0.84 ml, 5.59 mmol) were added to THF (30 ml), followed by heating under reflux for 7 hours. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=1:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 1.13 g (yield: 94%) of 5-(1,3-dioxolan-2-yl)-1-(4-phenylsulfanylbenzyl)-3,4-dihydro-1H-quinolin-2-one as a white solid.

reactant | 1-(4-Chloromethylbenzyl)-5-(1,3-dioxolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 2.79 mmol, 1.0 g | ClCC1=CC=C(CN2C(CCC3=C(C=CC=C23)C2OCCO2)=O)C=C1 | C20H20ClNO3
reactant | thiophenol | 3.63 mmol, 0.37 ml | C1(=CC=CC=C1)S | C6H6S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-(1,3-dioxolan-2-yl)-1-(4-phenylsulfanylbenzyl)-3,4-dihydro-1H-quinolin-2-one | 1.13 g, yield: 94% | O1C(OCC1)C1=C2CCC(N(C2=CC=C1)CC1=CC=C(C=C1)SC1=CC=CC=C1)=O | C25H23NO3S
